US06713471B1
n-Butyllithium (1.6 M solution in hexanes, 29.1 mmol, 18.2 mL) was added to 1-bromo-2-fluoro-4-methoxybenzene (24.4 mmol, 5.0 g) in THF (150 mL) at −78° C. under an atmosphere of nitrogen. After stirring for thirty minutes the trimethylborate (95.1 mmol, 10.8 mL) was added over twenty minutes. The reaction was allowed to warm to room temperature overnight while stirring. The solution was then acidified with HCl (3 M, 200 mL), and extracted into EtOAc. The EtOAc was then extracted with NaOH (1 N, 4×100 mL), which was subsequently acidified with concentrated HCl forming (2-fluoro-4-methoxyphenyl)boronic acid as a white precipitate. The white precipitate (2.04 g, 49%) was filtered and dried. 1H NMR (CD3OD, 300 MHz): 7.29 (1H, t, J 8.0 Hz), 6.73 (1H, dd, J 8.5 and 2.2 Hz), 6.62 (1H, dd, J 11.4 and 2.2 Hz), 3.78 (3H, s.)

reactant | n-Butyllithium | 29.1 mmol, 1.6 M, 18.2 mL | C(CCC)[Li]
reactant | 1-bromo-2-fluoro-4-methoxybenzene | 24.4 mmol, 5.0 g | BrC1=C(C=C(C=C1)OC)F | C7H6BrFO
reactant | trimethylborate | 95.1 mmol, 10.8 mL | COB(OC)OC | C3H9BO3
reactant | HCl | 3 M, 200 mL | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (2-fluoro-4-methoxyphenyl)boronic acid | FC1=C(C=CC(=C1)OC)B(O)O | C7H8BFO3
